US05356897
To a mixture of 4,7-dihydro-6-ethoxycarbonyl-2-(4-fluorophenyl)-3-(pyridin-4-yl)-7-oxopyrazolo[1,5-a]pyrimidine (100 mg) in tetrahydrofuran (4 ml) was added lithium borohydride (2 mole in tetrahydrofuran, 0.26 ml) at room temperature and the mixture was refluxed for 1 hour. After cooling, the reaction mixture was quenched with an aqueous saturated ammonium chloride solution and extracted with ethyl acetate. The extracts were washed with brine, dried and concentrated in vacuo. The residue was crystallized from ethanol to give 6-ethoxycarbonyl-2-(4-fluorophenyl)-7-oxo-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (40 mg).

reactant | 4,7-dihydro-6-ethoxycarbonyl-2-(4-fluorophenyl)-3-(pyridin-4-yl)-7-oxopyrazolo[1,5-a]pyrimidine | 100 mg | C(C)OC(=O)C1=CNC=2N(C1=O)N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C20H15FN4O3
reactant | lithium borohydride | 2 mole, 0.26 ml | [BH4-].[Li+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 6-ethoxycarbonyl-2-(4-fluorophenyl)-7-oxo-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 40 mg | C(C)OC(=O)C1CNC=2N(C1=O)N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C20H17FN4O3
